US06103718
K. 5-(3-Nitrophenyl)tetrazole
A mixture of 14.8 g of 4-nitrobenzonitril, 32 g of ammoniumchloride and 39 g of sodium azide in 150 ml of DMF was heated for 2 h at 120° C. After evaporating the solvent, the residue was partitioned between 2N hydrochloric acid and ethyl acetate. The organic layer was dried and evaporated. The residue was washed with ether and dried. M.p. 101-102° C.

reactant | 4-nitrobenzonitril | 14.8 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | ammoniumchloride | 32 g | [Cl-].[NH4+]
reactant | sodium azide | 39 g | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-(3-Nitrophenyl)tetrazole | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
